US04172943
{{5,5-Dimethyl-8-(1,2-dimethylheptyl)-10-[4-(2-methylpiperidino)-2-methylbutyryloxy]-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridin-2-yl}-acetyl}urea hydrochloride (XVI)
The above-titled compound was prepared according to the method of Example 8 by reacting equimolar quantities of {[10-hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridin-2-yl]acetyl}urea and [4-(2-methylpiperidino)]-2-methylbutyric acid hydrochloride in the presence of dicyclohexylcarbodiimide.

reactant | {[10-hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridin-2-yl]acetyl}urea | OC1=CC(=CC2=C1C=1CN(CCC1C(O2)(C)C)CC(=O)NC(=O)N)C(C(CCCCC)C)C | C26H39N3O4
reactant | [4-(2-methylpiperidino)]-2-methylbutyric acid hydrochloride | Cl.CC1N(CCCC1)CCC(C(=O)O)C
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | {{5,5-Dimethyl-8-(1,2-dimethylheptyl)-10-[4-(2-methylpiperidino)-2-methylbutyryloxy]-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridin-2-yl}-acetyl}urea hydrochloride | Cl.CC1(OC2=C(C(=CC(=C2)C(C(CCCCC)C)C)OC(C(CCN2C(CCCC2)C)C)=O)C=2CN(CCC21)CC(=O)NC(=O)N)C | InChI=1S/C37H58N4O5.ClH/c1-8-9-10-13-24(2)27(5)28-20-31(45-35(43)25(3)15-19-41-17-12-11-14-26(41)4)34-29-22-40(23-33(42)39-36(38)44)18-16-30(29)37(6,7)46-32(34)21-28;/h20-21,24-27H,8-19,22-23H2,1-7H3,(H3,38,39,42,44);1H
